US08193121B2
133 mg (1.05 mmol) of oxalyl dichloride and three drops of N,N-dimethylformamide were added in succession to 200 mg (purity 78% by weight, 0.59 mmol) of 2-methoxy-3-methylthio-4-(trifluoromethyl)benzoic acid in 20 ml of dichloromethane. After the elimination of gas had ceased, the mixture was heated under reflux for another 10 min. The content was then cooled to RT and freed from the solvent. 93 mg (0.83 mmol) of 1,3-cyclohexanedione were added to the residue in 20 ml of dry dichloromethane, and 152 mg (1.50 mmol) of triethylamine were then added dropwise. The mixture was stirred at RT for 16 h. For work-up, 3 ml of 1M hydrochloric acid were added to the contents. After phase separation, the organic phase was freed from the solvent. The residue was purified chromatographically, which isolated 100 mg of 3-(2-methoxy-3-methylthio-4-(trifluoromethyl)benzoyloxy)-cyclohex-2-enone.

reactant | oxalyl dichloride | 1.05 mmol, 133 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-methoxy-3-methylthio-4-(trifluoromethyl)benzoic acid | 0.59 mmol, 200 mg | COC1=C(C(=O)O)C=CC(=C1SC)C(F)(F)F | C10H9F3O3S
reactant | 1,3-cyclohexanedione | 0.83 mmol, 93 mg | C1(CC(CCC1)=O)=O | C6H8O2
reactant | triethylamine | 1.50 mmol, 152 mg | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1M, 3 ml | Cl | ClH
catalyst | N,N-dimethylformamide | three drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-(2-methoxy-3-methylthio-4-(trifluoromethyl)benzoyloxy)-cyclohex-2-enone | 100 mg | COC1=C(C(=O)OC2=CC(CCC2)=O)C=CC(=C1SC)C(F)(F)F | C16H15F3O4S
